US06492399B1
The 5-bromo-2-methyl-3-pyridinol, required for the syntheses of the brominated dihydrofuro- and dihydropyranopyridines, is produced by standard transformations of commercially available materials. Thus, 2-methylnicotinic acid (Aldrich Chemical Company) can be converted, by sequential treatment with thionyl chloride, bromine, and ammonia (methodology described by C. V. Greco et al., J. Heterocyclic Chem. 7: 761-766 (1970)), into 5-bromo-2-methylnicotinamide. Hofmann rearrangement of 5-bromo-2-methylnicotinamide with hypochlorite will give 3-amino-5-bromo-2-methylpyridine, which can be converted to 5-bromo-2-methyl-3-pyridinol by diazotization with sodium nitrite in aqueous sulfuric acid. Alternatively, alanine ethyl ester (Aldrich Chemical Company) is converted (using ethyl formate) into its N-formyl derivative, which is then converted to 5-ethoxy-4-methyloxazole using phosphorous pentoxide (N. Takeo et al., Japan Patent No. 45,012,732). Diels-Alder reaction of 5-ethoxy-4-methyloxazole with acrylonitrile gives 5-hydroxy-6-methylnicotinonitrile (T. Yoshikawa et al., Chem. Pharm. Bull. 13: 873 (1965)), which is converted to 5-amino-2-methyl-3-pyridinol by hydration (nitrite→amide) and Hofmann rearrangement (Y. Morisawa et al., Agr. Biol. Chem. 39: 1275-1281 (1975)). The 5-amino-2-methyl-3-pyridinol can then be converted, by diazotization in the presence of cuprous bromide, to the desired 5-bromo-2-methyl-3-pyridinol.

reactant | 5-bromo-2-methyl-3-pyridinol | BrC=1C=C(C(=NC1)C)O | C6H6BrNO
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | alanine ethyl ester | C(C)OC([C@@H](N)C)=O | C5H11NO2
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | 5-ethoxy-4-methyloxazole | C(C)OC1=C(N=CO1)C | C6H9NO2
reactant | phosphorous pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | acrylonitrile | C(C=C)#N | C3H3N
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 5-hydroxy-6-methylnicotinonitrile | OC=1C(=NC=C(C#N)C1)C | C7H6N2O
